US05034530
Tert-butyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate.
M.p. 176°-177° C., from 3-methyl-2-quinoxalinol and tert-butyl isocyanoacetate. (Compound 6)

reactant | 3-methyl-2-quinoxalinol | CC=1C(=NC2=CC=CC=C2N1)O | C9H8N2O
reactant | tert-butyl isocyanoacetate | [N+](#[C-])CC(=O)OC(C)(C)C | C7H11NO2
product | Tert-butyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate | CC=1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)OC(C)(C)C | C16H17N3O2
